Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Hematemesis
 
Major Surgical or Invasive Procedure:
EGD ___

 
History of Present Illness:
___ male with no significant past medical history 
presents with hematemesis. Patient states that he is taking 
Excedrin daily for migraines. He has had 2 days of mild 
abdominal discomfort, mostly in the left lower quadrant. He 
awoke this morning and had two episodes of hematemesis, one with 
about two cups of bright red blood. A few hours later the 
patient had an episode of diarrhea which was predominantly dark 
brown with some bright red blood as well. The patient has had no 
other systemic symptoms, though he does endorse a ___ pound 
weight loss over the past year or two which he has attributed to 
stress at work. He called his primary care doctor who told him 
to come to the ED.
 
Past Medical History:
None
 
Social History:
___
Family History:
Mother with stroke, HTN, bladder cancer, breast cancer  
 
Physical Exam:
ADMISSION EXAM:
===============
VITALS:  98.0PO 145 / 83L Sitting 60 18 97   
GENERAL: AOx3, NAD  
HEENT: Normocephalic, atraumatic. Pupils equal, round, and 
reactive bilaterally, extraocular muscles intact. Sclera 
anicteric and without injection. Moist mucous membranes, good 
dentition. Oropharynx is clear.  
NECK: No LAD, no supraclavicular LAD  
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops. No JVD.  
LUNGS: Clear to auscultation bilaterally w/appropriate breath 
sounds appreciated in all fields. No wheezes, rhonchi or rales. 
No increased work of breathing.
BACK: No CVA tenderness.  
ABDOMEN: Normal bowels sounds, non distended, Mild tenderness to 
palpation in the left lower and right lower quadrants, worse on 
the left. No epigastric tenderness. Negative ___ sign. 
EXTREMITIES: No clubbing, cyanosis, or edema.
SKIN: No evidence of ulcers, rash or lesions suspicious for 
malignancy  
NEUROLOGIC: No focal deficits

DISCHARGE EXAM:
===============
VITALS: ___ 0005 Temp: 97.6 PO BP: 111/64 HR: 53 RR: 18 O2
sat: 98% O2 delivery: Ra 
GEN: alert, oriented, conversant 
EYES: PERRL, EOMI, conjunctiva clear, anicteric
CV: RRR s1s2 nl, no m/r/g
PULM: CTA, no r/r/w 
GI: Abd soft, mild tenderness to deep palpation in LLQ. No
guarding or rebound. 
NEURO: A & O x3, no neurologic deficits
 

 
Pertinent Results:
ADMISSION LABS:
==============
___ 06:35PM BLOOD WBC-7.4# RBC-3.76* Hgb-10.2*# Hct-32.9*# 
MCV-88 MCH-27.1# MCHC-31.0* RDW-13.0 RDWSD-41.2 Plt ___
___ 06:35PM BLOOD ___ PTT-40.2* ___
___ 06:35PM BLOOD Glucose-100 UreaN-35* Creat-0.7 Na-139 
K-4.6 Cl-101 HCO3-26 AnGap-12
___ 06:35PM BLOOD ALT-17 AST-16 AlkPhos-65 TotBili-0.2
___ 06:35PM BLOOD Albumin-3.7

DISCHARGE LABS:
==============
___ 05:33AM BLOOD WBC-4.3 RBC-3.32* Hgb-9.0* Hct-28.8* 
MCV-87 MCH-27.1 MCHC-31.3* RDW-12.8 RDWSD-39.8 Plt ___
___ 05:33AM BLOOD Glucose-118* UreaN-12 Creat-0.9 Na-144 
K-4.6 Cl-104 HCO3-27 AnGap-13
___ 06:35PM BLOOD ALT-17 AST-16 AlkPhos-65 TotBili-0.2
___ 05:33AM BLOOD Calcium-9.1 Phos-3.5 Mg-2.___ male with no significant past medical history 
presenting with hematemesis and melena in the setting of heavy 
NSAID use for migraines.

#GI bleed: The patient presented with two episodes of 
hematemesis and melena, as well as left lower quadrant abdominal 
pain in the setting of recent daily NSAID use. Given his NSAID 
use, as well as his pain being worse with PO intake, peptic 
ulcer disease was thought to be very likely. His hemoglobin was 
9.9 in the ED down from a baseline of 13. He was hemodynamically 
stable, and was started on a PPI. His repeat hemoglobin showed 
that it was stable at 10.2. Notably, the patient refused 
consenting for blood products should he need them despite 
explanation that it could be a life saving measure. This 
conversation is documented in OMR. The patient was admitted for 
monitoring of his CBC, and was seen be the gastroenterologists 
who recommended an upper GI endoscopy, which showed a large 
gastric ulcer with a necrotic core. The patient was made NPO, 
and was started on high dose IV PPI. A repeat scope in two days 
showed improvment in the ulcer, and the gastroenterologists 
recommended transition to a PO PPI and follow up as an 
outpatient.

TRANSITIONAL ISSUES:
====================
- The patient should have a repeat CBC at follow up (Discharge 
Hgb 9.0)
- The patient should have a colonoscopy as he has not had one, 
and has had a 15 pound weight loss over the last year

#Code status: DNR/DNI
#Health care proxy/emergency contact: ___ 
___ 

I have seen and examined M, reviewed the findings, data, and 
discharge plan of care documented by Dr. ___, MD dated 
___ and agree with the plan, except for any additional 
comments below.

___, MD, PharmD
Section of Hospital Medicine
___

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Excedrin Extra Strength (aspirin-acetaminophen-caffeine) 
250-250-65 mg oral BID:PRN 
2. Multivitamins 1 TAB PO DAILY 
3. Ascorbic Acid ___ mg PO DAILY 

 
Discharge Medications:
1.  Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*60 Tablet Refills:*0 
2.  Ascorbic Acid ___ mg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis: Upper GI bleed

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

WHY WAS I ADMITTED?
- You were admitted when you vomited some blood and saw some 
blood in your stool
- Your blood counts were slightly low and you were admitted to 
ensure that you were not bleeding further

WHAT WAS DONE WHILE I WAS HERE?
- You got some medications to decrease acid in your stomach to 
help with bleeding
- The gastroenterology specialists saw you and recommended a 
scope of your upper GI track
- A large ulcer was found in your stomach
- You had a repeat scope that showed healing of the ulcer
- When we were sure the bleeding had stopped, and your blood 
counts were stable, you were discharged home with the plan to 
continue an oral acid blocker (pantoprazole) and follow up with 
gastroenterology to have a repeat scope in 10 weeks. 

WHAT SHOULD I DO NOW?
-You should take your medications as instructed
-Please avoid foods that cause high acid production such as 
tomatoes, red sauce, coffee, tea, dairy products 
-You should go to your doctor's appointments as below

We wish you the best!
-Your ___ Care Team

 
Followup Instructions:
___